US04775671
6.80 g (20 mmol) of 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole, 50 ml of N,N-dimethylformamide and 3.2 g (20 mmol) of heptanecarboxamidoxime are stirred at 100° overnight. The solution is then evaporated and the residue is dissolved in methylene chloride. The organic solution is washed with water and the solvent is evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate and subsequent recrystallization from ethyl acetate there is obtained 7-chloro-3-(3-heptyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 108°-110°.

reactant | 1-[[7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl]carbonyl]imidazole | 20 mmol, 6.80 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(=O)N1C=NC=C1)C)=O | C16H12ClN5O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-chloro-3-(3-heptyl-1,2,4-oxadiazol-5-yl)-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C1=NC(=NO1)CCCCCCC)C)=O | C21H24ClN5O2
